US08487102B2
a) (4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridin-5-yl)-carbamic acid tert-butyl ester
To a solution of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (described herein above, 3.5 g, 0.0138 mol) in EtOH (20 mL) and THF (20 mL) was added an aqueous solution of NaOH (1N, 20.7 mL, 0.0207 mol) and the mixture was heated at 35° C. for 2 hours. After cooling down to RT, the mixture was acidified with aqueous HCl (1N) until pH reached 4 and the product extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated to give the crude acid which was used directly in the next step without further purification. The residue was taken up in THF (90 mL) before Et3N (1.85 mL, 0.0133 mol), DPPA (diphenyl phosphorazidate, 3.66 g, 0.0133 mol) and tBuOH (5.0 mL, 0.0532 mol) were added. The reaction mixture was heated at 60° C. for 6 hours, volatiles were then partially evaporated, and the concentrated solution poured onto EtOAc (200 mL) and washed with H2O (2 times 150 mL). The organic layer was dried over Na2SO4, and purification by column chromatography (SiO2, EtOAc/Heptane 1/4) yielded 3.3 g (84%) of the title compound as a white waxy solid. ES-MS m/e: 297.2 (M+H+).

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | NaOH | 0.0207 mol, 1N, 20.7 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Et3N | 0.0133 mol, 1.85 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 0.0133 mol, 3.66 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 0.0532 mol, 5.0 mL | CC(C)(C)O | C4H10O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridin-5-yl)-carbamic acid tert-butyl ester | 3.3 g, 84% | C(C)(C)(C)OC(NC=1C(=C2C(=NC1)N(N=C2)CC)Cl)=O | C13H17ClN4O2
